### PR TITLE
[Merged by Bors] - feat(Topology): define (relative) CW-complexes

### PR DESCRIPTION
**Pull request by jzxia**
We define a relative CW-complex as the colimit of an expanding sequence of subspaces `sk i` (called the $(i-1)$-skeleton) for `i ≥ 0`, where `sk 0` (i.e., the $(-1)$-skeleton) is an arbitrary topological space, and each `sk (n + 1)` (i.e., the $n$-skeleton) is obtained from `sk n` (i.e., the $(n-1)$-skeleton) by attaching `n`-disks.

This is based on [David Wärn's suggestion on Zulip](https://leanprover.zulipchat.com/#narrow/stream/217875-Is-there-code-for-X.3F/topic/Do.20we.20have.20CW.20complexes.3F/near/231769080) and Chapter 10 of _[A Concise Course in Algebraic Topology](https://www.math.uchicago.edu/~may/CONCISE/ConciseRevised.pdf)_ by J. P. May.

Co-authored-by: Elliot Dean Young <infinitychernweil@gmail.com>

---

- [x] depends on: #16672 [for moving `sphere` and `disk` to `TopCat/Basic.lean`]

I'd like to ask:

1. Is it appropriate to define `RelativeCWComplex` with a skeleton `sk i` for each integer `i`? Although we only need `sk i` for `i ≥ -1`, strictly sticking to `i ≥ -1` causes some trouble with dependent type theory in my experiments with lemmas leading to the Whitehead theorem. Note that the definition using `i : ℤ` is equivalent to that using `i ≥ -1` because `disk n` is empty for `n < 0`.
https://github.com/leanprover-community/mathlib4/blob/3ff9556b24875d78fb376051012e131ca68ff65d/Mathlib/Topology/CWComplex.lean#L79-L81
2. Can we shorten the proof of `colimitDiagram.map_comp`? Here we need to prove that, in a category, the composition of any finite number of morphisms is associative, i.e., a dependently typed [generalized associative law](https://math.stackexchange.com/questions/2459697/prove-generalized-associative-law). Mathlib has `List.foldl_assoc` for the non-dependent associativity but I haven't been able to find the dependent version, so I made a long-winded proof here.
https://github.com/leanprover-community/mathlib4/blob/3ff9556b24875d78fb376051012e131ca68ff65d/Mathlib/Topology/CWComplex.lean#L120-L129

Any suggestions are appreciated!

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/CWComplex.lean [hunk 1]
```diff
@@ -0,0 +1,164 @@
...
+/-- A CW-complex is a relative CW-complex whose (-1)-skeleton is empty. -/
+abbrev CWComplex := RelativeCWComplex (TopCat.of Empty)
+
+namespace CWComplex
+
+noncomputable section Topology
+
+/-- The inclusion map from `X` to `X'`, given that `X'` is obtained from X by attaching
+(n+1)-disks -/
+def attachCellsInclusion (X X' : TopCat) (n : ℤ) (att : AttachCells X X' n) : X ⟶ X' :=
```
Comment (joelriou) [inline Mathlib/Topology/CWComplex.lean:96]: I would rather see this definition in the `AttachCells` namespace, as `AttachCels.inclusions`.

File: Mathlib/Topology/CWComplex.lean [hunk 2]
```diff
@@ -0,0 +1,164 @@
...
+  @Limits.pushout.inr TopCat _ _ _ X
+    (sigmaSphereInclusion n att.cells)
+    (sigmaAttachMap X n att.cells att.attach_maps) _ ≫ att.iso_pushout.inv
+
+/-- The inclusion map from the n-skeleton to the (n+1)-skeleton of a relative CW-complex -/
+def skeletaInclusion {A : TopCat} (X : RelativeCWComplex A) (n : ℤ) : X.sk n ⟶ X.sk (n + 1) :=
```
Comment (joelriou) [inline Mathlib/Topology/CWComplex.lean:102]: This should be in the `RelativeCWComplex` namespace.

File: Mathlib/Topology/CWComplex.lean [hunk 3]
```diff
@@ -0,0 +1,164 @@
...
+    have h' : n < m := Int.lt_iff_le_and_ne.mpr ⟨n_le_m, h⟩
+    exact skeletaInclusion X n ≫ skeletaInclusion' X (n + 1) m h'
+  termination_by Int.toNat (m - n)
+  decreasing_by
+    simp_wf
+    rw [Int.toNat_of_nonneg (Int.sub_nonneg_of_le h')]
+    linarith
+
+/-- The colimit diagram in the definition of a relative CW-complex -/
+def colimitDiagram {A : TopCat} (X : RelativeCWComplex A) : ℤ ⥤ TopCat where
```
Comment (joelriou) [inline Mathlib/Topology/CWComplex.lean:121]: This construction should be part of a more general category theory API which would construct a functor `ℕ ⥤ C` from a sequence `obj : ℕ → C` and maps `obj n → obj (n + 1)`. You may freely use the (draft) code at https://github.com/leanprover-community/mathlib4/blob/jriou_localization/Mathlib/Algebra/Homology/Factorizations/CM5a.lean#L76 (this should go in a file like `Mathlib.CategoryTheory.Functor.OfSequence`.)

File: Mathlib/Topology/CWComplex.lean [hunk 4]
```diff
@@ -0,0 +1,164 @@
...
+        simp_wf
+        rw [Int.toNat_of_nonneg (Int.sub_nonneg_of_le h2)]
+        linarith
+    intro n m l n_le_m m_le_l
+    have n_le_m := Quiver.Hom.le n_le_m
+    have m_le_l := Quiver.Hom.le m_le_l
+    exact p n m l n_le_m m_le_l (Int.le_trans n_le_m m_le_l)
+
+/-- The topology on a relative CW-complex -/
+def toTopCat {A : TopCat} (X : RelativeCWComplex A) : TopCat :=
```
Comment (joelriou) [inline Mathlib/Topology/CWComplex.lean:159]: This should be in the `RelativeCWComplex` namespace.

**Comment by joelriou** [comment]
Some other reviewer more expert in topology in mathlib than me should have another look.

I would think it would be much simpler if the numbering was with `ℕ` rather than `ℤ`. Then `sk 0` would be the space we start from, `sk 1` would be obtained by adding points, `sk 2` filling segments, etc.

File: Mathlib/Topology/CWComplex.lean [hunk 5]
```diff
@@ -0,0 +1,164 @@
...
+  termination_by Int.toNat (m - n)
+  decreasing_by
+    simp_wf
+    rw [Int.toNat_of_nonneg (Int.sub_nonneg_of_le h')]
+    linarith
+
+/-- The colimit diagram in the definition of a relative CW-complex -/
+def colimitDiagram {A : TopCat} (X : RelativeCWComplex A) : ℤ ⥤ TopCat where
+  obj := X.sk
+  map := @fun n m n_le_m => skeletaInclusion' X n m <| Quiver.Hom.le n_le_m
```
Comment (joelriou) [inline Mathlib/Topology/CWComplex.lean:123]: As a general remark, you may favour the following syntax:
```suggestion
  map n m n_le_m := skeletaInclusion' X n m <| Quiver.Hom.le n_le_m
```
Instead of `Quiver.Hom.le`, I think you could use `leOfHom`.

File: Mathlib/Topology/CWComplex.lean [hunk 6]
```diff
@@ -0,0 +1,164 @@
...
+https://leanprover.zulipchat.com/#narrow/stream/217875-Is-there-code-for-X.3F/topic/Do.20we.20have.20CW.20complexes.3F/near/231769080
+-/
+
+open CategoryTheory
+
+namespace CWComplex
+
+/-- The n-dimensional sphere is the set of points in ℝ^(n+1) whose norm equals 1, endowed with the
+subspace topology. -/
+noncomputable def sphere (n : ℤ) : TopCat :=
```
Comment (joelriou) [inline Mathlib/Topology/CWComplex.lean:28]: This must be `TopCat.{0}`. I would be interested to know how difficult it would be to generalize definitions to `TopCat.{u}` so that in a certain future, we could relate simplicial sets in `Type u` with CW-complexes.{u}. (I do not want to push too much in this direction if it is painful to implement.)

Another (more important) suggestion is that with this definition of the basic cells, it may not be very easy to show that a sphere or a ball is a CW-complex. Topologically, as a substitute, we could use the topological realizations of the simplicial set inclusions `∂Δ[n] ⟶ Δ[n]` (these are isomorphic arrows in the category of topological spaces). Then, it would be much easier to show that the realization of simplicial sets are CW-complexes using the skeleton filtration (which would require a little work from the notions introduced in `AlgebraicTopology.SplitSimplicialObject`).

Then, in any case, I think that `AttachCells` should be generalized as `AttachGeneralizedCells` which would take as input `X`, `X'` and a continuous map of topological spaces (typically your `sphereInclusion`, but also the isomorphic arrows I am suggesting using simplicial sets).

Comment (linlib) [reply Mathlib/Topology/CWComplex.lean:28]: Hi Joël.

Thanks very much for your time. I'd like to say I'm especially excited about the final suggestion you made, but first I want to explain how a sphere has a CW-approximation in this implementation:

If a CW-approximation exists for a space X homeomorphic to a space Y, then one exists for Y. Meanwhile the cube has a CW-approximation, merely one which features only one cell. Of course, one homeomorphism from the ∞-norm unit ball in ℝⁿ to the 2-norm unit ball in ℝⁿ is division by the 2-norm.

Despite the above, I'm really excited about your idea to include all of the basic shapes which make spheres and discs:

- the unit ball in the 2 norm its boundary
- the unit ball in the ∞ norm and its boundary
- the simplex and its boundary

I think we could start by defining a CW-complex as resulting from any of the three, but also to include homeomorphisms between Δⁿ, Dⁿ, and Iⁿ which restrict homeomorphisms of ∂Δⁿ, ∂Dⁿ, and ∂Iⁿ.

One further question is whether to include the p-norm unit ball for 1 ≤ p ≤ ∞.

Do you think that including all three kinds of attaching maps along with the mentioned homeomorphisms would satisfy the last issue?

One more thing I didn't mention is that CW-replacement and transport of πₙ (base-replacement) remains to be shown, but we thought it would be best to make this first smaller PR.

Comment (joelriou) [reply Mathlib/Topology/CWComplex.lean:28]: If I want to show that topological realizations `|X|` of simplicial sets are CW-complexes, I would inductively attach a `n`-cell for each nondegenerate `n`-simplex. For example, for `|Δ[2]|`, this would mean starting with the empty set, add 3 points `0`, `1`, `2`, add 3 segments `[0,1]`, `[1,2]`, `[0,2]` to get a triangle (without its interior), and then attach a `2`-disk. This way, we get that the `2`-disk is a CW-complex.

Then, `Δ[n]/∂Δ[n]` has only two nondegenerate simplices, one `0`-simplex and one `n`-simplex. In this case attaching the `n` cell means identifying all the boundary points (which are on a sphere) of the unit ball, which gives a space that is homeomorphic (but not so obviously) to the n-dimensional sphere.

I do not think that the unit ball can be obtained using only one (or maybe two) cells. For the usual disk above, I have used `7` cells!

My more precise suggestion is to define a type `AttachGeneralizedCells X X' f` (where `f : A → B` gives the sort of "generalized" cells) which contains the data which says that `X'` is obtained from `X` by attaching `f`-cells. Then, if `f` and `g` are isomorphic arrows in `TopCat`, construct a bijection between `AttachGeneralizedCells X X' f` and `AttachGeneralizedCells X X' f'`. Then `AttachCells X X' n` can be defined as an abbreviation of this for the inclusion of the boundary of the ball. Then, the definition of relative CW-complexes is unchanged, but for their construction, we may now use more convenient types of cells using the bijections above. I do not think that more explicit types of cells are necessary besides the topological sphere/ball and the inclusions `|∂Δ[n]| → |Δ[n]|`.

File: Mathlib/Topology/CWComplex.lean (hunk 3 above)
Comment (joelriou) [reply Mathlib/Topology/CWComplex.lean:121]: See https://github.com/leanprover-community/mathlib4/pull/13223

File: Mathlib/Topology/CWComplex.lean [hunk 7]
```diff
@@ -0,0 +1,164 @@
...
+  TopCat.of <| Metric.sphere (0 : EuclideanSpace ℝ <| Fin <| Int.toNat <| n + 1) 1
+
+/-- The n-dimensional closed disk is the set of points in ℝ^n whose norm is at most 1, endowed with
+the subspace topology. -/
+noncomputable def disk (n : ℤ) : TopCat :=
+  TopCat.of <| Metric.closedBall (0 : EuclideanSpace ℝ <| Fin <| Int.toNat n) 1
+
+/-- `𝕊 n` denotes the n-dimensional sphere. -/
+notation "𝕊 "n => sphere n
```
Comment (fpvandoorn) [inline Mathlib/Topology/CWComplex.lean:37]: make these notations local, or better: scoped and move them to the right place.

**Comment by jcommelin** [comment]
Hi @jzxia, just checking in to ask what the status is. Are you planning to continue working on this PR? If not, please feel free to close it, or label it with `please-adopt`.

**Comment by jzxia** [comment]
Hi @jcommelin, thank you for your interest. Dean Young (@linlib) and I are actively working on this PR and the Whitehead theorem. We’ve seriously considered [Joël Riou's suggestion](https://leanprover.zulipchat.com/#narrow/stream/116395-maths/topic/Three.20Whitehead.20theorems) for the API design and have now agreed on it. We’re optimistic about completing the definition (this PR) within a month.

**Comment by jcommelin** [comment]
@jzxia Great! When you are done, please remove the label `awaiting-author`.

File: Mathlib/Topology/CWComplex.lean (hunk 7 above)
Comment (jzxia) [reply Mathlib/Topology/CWComplex.lean]: Thanks. Now they are scoped notations.

File: Mathlib/Topology/CWComplex.lean (hunk 1 above)
Comment (jzxia) [reply Mathlib/Topology/CWComplex.lean]: Thanks. This definition has now been renamed `RelativeCWComplex.AttachCells.inclusion`.

File: Mathlib/Topology/CWComplex.lean (hunk 2 above)
Comment (jzxia) [reply Mathlib/Topology/CWComplex.lean]: Thanks. This definition has now been renamed `RelativeCWComplex.inclusion`.
https://github.com/leanprover-community/mathlib4/blob/3cfda01c25cc8ef045b74478e0ccc1f6dbb3571c/Mathlib/Topology/CWComplex.lean#L127-L129

File: Mathlib/Topology/CWComplex.lean (hunk 3 above)
Comment (jzxia) [reply Mathlib/Topology/CWComplex.lean]: Your API is very helpful. I have updated the definition of the topology on a relative CW-complex using your `Functor.OfSequence`.
https://github.com/leanprover-community/mathlib4/blob/3cfda01c25cc8ef045b74478e0ccc1f6dbb3571c/Mathlib/Topology/CWComplex.lean#L132-L134

File: Mathlib/Topology/CWComplex.lean (hunk 4 above)
Comment (jzxia) [reply Mathlib/Topology/CWComplex.lean]: Thanks. This definition has now been renamed `RelativeCWComplex.toTopCat`.
https://github.com/leanprover-community/mathlib4/blob/3cfda01c25cc8ef045b74478e0ccc1f6dbb3571c/Mathlib/Topology/CWComplex.lean#L132-L134

File: Mathlib/Topology/CWComplex.lean (hunk 5 above)
Comment (jzxia) [reply Mathlib/Topology/CWComplex.lean]: Thanks. Since I have updated the definition of the topology on a relative CW-complex using your `Functor.OfSequence`, this `colimitDiagram` is no longer needed.

File: Mathlib/Topology/CWComplex.lean (hunk 6 above)
Comment (jzxia) [reply Mathlib/Topology/CWComplex.lean]: Hi Joël,

Thank you for your review. I have updated my code according to your suggestions.

> I would be interested to know how difficult it would be to generalize definitions to `TopCat.{u}` so that in a certain future, we could relate simplicial sets in `Type u` with CW-complexes.{u}.

All definitions are now universe polymorphic. This was not difficult but I was unaware of its benefits, so thanks for reminding me.

> My more precise suggestion is to define a type `AttachGeneralizedCells X X' f`... Then `AttachCells X X' n` can be defined as an abbreviation

https://github.com/leanprover-community/mathlib4/blob/3cfda01c25cc8ef045b74478e0ccc1f6dbb3571c/Mathlib/Topology/CWComplex.lean#L60

https://github.com/leanprover-community/mathlib4/blob/3cfda01c25cc8ef045b74478e0ccc1f6dbb3571c/Mathlib/Topology/CWComplex.lean#L77-L79

https://github.com/leanprover-community/mathlib4/blob/3cfda01c25cc8ef045b74478e0ccc1f6dbb3571c/Mathlib/Topology/CWComplex.lean#L96-L97

**Comment by jzxia** [comment]
> Some other reviewer more expert in topology in mathlib than me should have another look.
> 
> I would think it would be much simpler if the numbering was with `ℕ` rather than `ℤ`. Then `sk 0` would be the space we start from, `sk 1` would be obtained by adding points, `sk 2` filling segments, etc.

Re-numbering the skeletons is indeed convenient. I have done so and explained in the document that `sk n` actually means the `(n-1)`-dimensional skeleton, for `n ∈ ℕ`.

File: Mathlib/Topology/CWComplex.lean [hunk 8]
```diff
@@ -0,0 +1,140 @@
...
+/-- The `n`-disk is the set of points in ℝⁿ whose norm is at most `1`,
+endowed with the subspace topology. -/
+noncomputable def disk (n : ℤ) : TopCat.{u} :=
+  TopCat.of <| ULift <| Metric.closedBall (0 : EuclideanSpace ℝ <| Fin <| Int.toNat n) 1
+
+/-- `𝕊 n` denotes the `n`-sphere. -/
+scoped notation "𝕊 "n => sphere n
+
+/-- `𝔻 n` denotes the `n`-disk. -/
+scoped notation "𝔻 "n => disk n
```
Comment (YaelDillies) [inline Mathlib/Topology/CWComplex.lean:51]: I feel like this might be useful more generally than just CW-complexes. Should it move to a `TopCat` file?

File: Mathlib/Topology/CWComplex.lean [hunk 9]
```diff
@@ -0,0 +1,140 @@
...
+
+/-- The inclusion map from the `n`-sphere to the `(n+1)`-disk -/
+def sphereInclusion (n : ℤ) : (𝕊 n) ⟶ (𝔻 n + 1) where
```
Comment (YaelDillies) [inline Mathlib/Topology/CWComplex.lean:54]: The notation looks really weird here. I would expect
```suggestion
def sphereInclusion (n : ℤ) : 𝕊 n ⟶ 𝔻 (n + 1) where
```
...

File: Mathlib/Topology/CWComplex.lean (hunk 8 above)
Comment (YaelDillies) [inline Mathlib/Topology/CWComplex.lean:51]: ...I think this should fix it
```suggestion
/-- `𝕊 n` denotes the `n`-sphere. -/
scoped notation "𝕊 "n:arg => sphere n

/-- `𝔻 n` denotes the `n`-disk. -/
scoped notation "𝔻 "n:arg => disk n
```

File: Mathlib/Topology/CWComplex.lean [hunk 10]
```diff
@@ -0,0 +1,140 @@
...
+/-- A relative CW-complex contains an expanding sequence of subspaces `sk i` (called the
+`(i-1)`-skeleton) for `i ≥ 0`, where `sk 0` (i.e., the `(-1)`-skeleton) is an arbitrary topological
+space, and each `sk (n+1)` (i.e., the `n`-skeleton) is obtained from `sk n` (i.e., the
+`(n-1)`-skeleton) by attaching `n`-disks. -/
+structure RelativeCWComplex where
+  /-- The skeletons. Note: `sk i` is usually called the `(i-1)`-skeleton in the math literature. -/
+  sk : ℕ → TopCat.{u}
+  /-- Each `sk (n+1)` (i.e., the `n`-skeleton) is obtained from `sk n` (i.e., the
+  `(n-1)`-skeleton) by attaching `n`-disks. -/
+  attach_cells : (n : ℕ) → RelativeCWComplex.AttachCells (sk n) (sk (n + 1)) (n - 1)
```
Comment (YaelDillies) [inline Mathlib/Topology/CWComplex.lean:110]: Nit:
```suggestion
  attach_cells (n : ℕ) : RelativeCWComplex.AttachCells (sk n) (sk (n + 1)) (n - 1)
```

File: Mathlib/Topology/CWComplex.lean [hunk 11]
```diff
@@ -0,0 +1,140 @@
...
+
+/-- A CW-complex is a relative CW-complex whose `sk 0` (i.e., `(-1)`-skeleton) is empty. -/
+structure CWComplex extends RelativeCWComplex.{u} where
+  /-- `sk 0` (i.e., the `(-1)`-skeleton) is empty. -/
+  sk_zero_empty : sk 0 = TopCat.of (ULift Empty)
```
Comment (YaelDillies) [inline Mathlib/Topology/CWComplex.lean:115]: This looks really wrong in that you are stating equality of types. Is there any reason you are not doing
```suggestion
  sk_zero_empty : IsEmpty (sk 0)
```

Comment (jzxia) [reply Mathlib/Topology/CWComplex.lean]: `IsEmpty` indeed makes proofs simpler. Thanks!

File: Mathlib/Topology/CWComplex.lean (hunk 8 above)
Comment (jzxia) [reply Mathlib/Topology/CWComplex.lean]: Thank you, this works. (I also changed `notation` to `prefix` so that `n` can be omitted here.)

Comment (jzxia) [reply Mathlib/Topology/CWComplex.lean]: I agree. (This might be useful for homology of `𝕊 n`, degree of maps from `𝕊 n` to `𝕊 n`, etc.)

Could we move `sphere`, `disk`, and their notations to `Topology/Category/TopCat/Basic.lean`? In the future, if there are more constructions of objects in `TopCat`, we could then move them to a new file.

Comment (jzxia) [reply Mathlib/Topology/CWComplex.lean]: Moving `sphere` and `disk` to `Topology/Category/TopCat/Basic.lean` leads to a conflict between the Lean-3-style notation `⟪x, y⟫_𝕜` for inner product and the (Lean 4) notation `x |_ₗ U ⟪e⟫` for `TopCat.Presheaf.restrict`, and hence a syntax error in `Topology/Sheaves/Presheaf.lean`

https://github.com/leanprover-community/mathlib4/blob/2eb00cae7edccf4e54238db2cb4b0a7dff59fbdd/Mathlib/Topology/Sheaves/Presheaf.lean#L125

with error message `error: ././././Mathlib/Topology/Sheaves/Presheaf.lean:125:12: unexpected token '⟫'; expected ','`.

The import links are shown below, where the red link is for the `EuclideanSpace` in the definition of `sphere` and `disk`.

20240909_import_links_annotated

I tried making the Lean-3-style notation `⟪x, y⟫_𝕜` local, but this leads to more errors and I'm reluctant to modify existing code unrelated to this PR.

(There is also a conflict in `Topology/Category/TopCat/Limits/Basic.lean` where the tactic `by continuity` presumably gets overwhelmed by newly imported lemmas. This [can be fixed](https://github.com/leanprover-community/mathlib4/pull/12502/commits/6ed65746447583d849c1af5cb71820d43284885d) by using the lemma `continuous_const` instead of the tactic.)

Could anyone help me decide the best way to resolve these conflicts? If Lean had a mechanism to `import` only a part of a file this would be easy, but I didn't find any instructions in the documentation.

Comment (YaelDillies) [reply Mathlib/Topology/CWComplex.lean]: Oh, that looks bad. Could you start a discussion on Zulip and then tag this PR as `awaiting-zulip`?

Comment (jzxia) [reply Mathlib/Topology/CWComplex.lean]: Sure. I've started [a Zulip discussion](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Notation.20conflict.20in.20CW-complex.20PR).

Comment (jzxia) [reply Mathlib/Topology/CWComplex.lean]: The notation conflict is resolved by PR #16672.

Another conflict is in `Topology/Category/TopCat/Limits/Basic.lean`

https://github.com/leanprover-community/mathlib4/blob/e992840b976c4ebb76851871c8cbb559374331af/Mathlib/Topology/Category/TopCat/Limits/Basic.lean#L187

where the tactic `by continuity` presumably gets overwhelmed by newly imported definitions, resulting in an `aesop` timeout. I didn't look into the exact cause but I was able to fix it simply by using the theorem `continuous_const`

https://github.com/leanprover-community/mathlib4/blob/e992840b976c4ebb76851871c8cbb559374331af/Mathlib/Topology/Basic.lean#L1482-L1484

instead of the tactic. Is it OK to do the fix directly in the current PR (commit https://github.com/leanprover-community/mathlib4/pull/12502/commits/c4a602a942a0936368f1ff354e4214eeae8624c7 )?

With these two conflicts resolved, I was finally able to move `sphere` and `disk` into `TopCat/Basic.lean` (commit https://github.com/leanprover-community/mathlib4/pull/12502/commits/8f1214a13e171d1e37a59287f13522cf38a38a36 ).

**Review by YaelDillies — APPROVED** [review]
Looks good to me but please get an algebraic topologist to sign off

File: Mathlib/Topology/CWComplex.lean [hunk 12]
```diff
@@ -0,0 +1,123 @@
...
+/-- Given an attaching map for each `S n` (boundary of a generalized `(n+1)`-cell), we construct
+the attaching map for the disjoint union of all the `S n`. -/
+def generalizedSigmaAttachMap (X : TopCat.{u}) (n : ℤ) (cells : Type)
+    (attach_maps : cells → C(S n, X)) : TopCat.of (Σ (_ : cells), S n) ⟶ X where
+  toFun := fun ⟨i, x⟩ ↦ attach_maps i x
+  continuous_toFun := continuous_sigma fun i ↦ (attach_maps i).continuous_toFun
+
+/-- A type witnessing that `X'` is obtained from `X` by attaching generalized `(n+1)`-cells, where
+a generalized `(n+1)`-cell is given by `f n : S n ⟶ D (n + 1)`. -/
+structure AttachGeneralizedCells (X X' : TopCat.{u}) (n : ℤ) where
```
Comment (joelriou) [inline Mathlib/Topology/CWComplex.lean:62]: Could you make this depend only on a *single* map `f` between topological spaces rather than a sequence of maps and an index `n`? It should not require too many changes to your code, but it would ease the future development of the API for `AttachGeneralizedCells`.

File: Mathlib/Topology/CWComplex.lean [hunk 13]
```diff
@@ -0,0 +1,123 @@
...
+  /-- The skeletons. Note: `sk i` is usually called the `(i-1)`-skeleton in the math literature. -/
+  sk : ℕ → TopCat.{u}
+  /-- Each `sk (n+1)` (i.e., the `n`-skeleton) is obtained from `sk n` (i.e., the
+  `(n-1)`-skeleton) by attaching `n`-disks. -/
+  attach_cells (n : ℕ) : RelativeCWComplex.AttachCells (sk n) (sk (n + 1)) (n - 1)
+
+/-- A CW-complex is a relative CW-complex whose `sk 0` (i.e., `(-1)`-skeleton) is empty. -/
+structure CWComplex extends RelativeCWComplex.{u} where
+  /-- `sk 0` (i.e., the `(-1)`-skeleton) is empty. -/
+  sk_zero_empty : IsEmpty (sk 0)
```
Comment (joelriou) [inline Mathlib/Topology/CWComplex.lean:98]:
```suggestion
  isEmpty_sk_zero : IsEmpty (sk 0)
```

File: Mathlib/Topology/Category/TopCat/Basic.lean [hunk 14]
```diff
@@ -187,4 +188,20 @@ theorem openEmbedding_iff_isIso_comp' {X Y Z : TopCat} (f : X ⟶ Y) (g : Y ⟶
   simp only [← Functor.map_comp]
   exact openEmbedding_iff_isIso_comp f g
 
+/-- The `n`-sphere is the set of points in ℝⁿ⁺¹ whose norm equals `1`,
+endowed with the subspace topology. -/
+noncomputable def sphere (n : ℤ) : TopCat.{u} :=
+  TopCat.of <| ULift <| Metric.sphere (0 : EuclideanSpace ℝ <| Fin <| Int.toNat <| n + 1) 1
```
Comment (joelriou) [inline Mathlib/Topology/Category/TopCat/Basic.lean:194]: Relative CW-complexes should correspond to the addition, in a suitable order, first of points (i.e. pushouts by copies of the map `emptyset ⟶ {0}` (the target is the disk of dimension `0`), secondly filling "segments" (i.e. pushouts by copies of the map`S^0 ⟶ D^1`), and then `S^n ⟶ D^{n+1}`, etc.
Then, these definitions seem wrong to me: because of `Int.toNat`, `sphere (-1) = sphere 0` which is the disjoint union of two points, even though the sphere of dimension -1 should be empty.

I would strongly advocate the replacement of `ℤ` by `ℕ` everywhere in this PR. Then, the sequence of maps that are used to define what are `n`-cells should be defined by pattern matching: it should send `0` to the inclusion of the empty set in `D^0`, and `n + 1` to the inclusion of `S^n in D^{n+1}`.

Comment (jzxia) [reply Mathlib/Topology/Category/TopCat/Basic.lean:194]: Hi Joël, thanks for your suggestion!

> Then, these definitions seem wrong to me: because of `Int.toNat`, `sphere (-1) = sphere 0`

This is not the case. `sphere (-1)` is indeed empty, and `sphere 0` is the disjoint union of two points, exactly as what you'd expect:

```lean
#eval Int.toNat ((-1 : ℤ) + 1)  -- 0
#eval Int.toNat ((0 : ℤ) + 1)  -- 1
```

While your suggestion on a pattern-matching definition is also feasible, it seems to me that the current definition greatly facilitates (among other things) the proof of the homotopy extension property of the pair `(𝔻 (n + 1), 𝕊 n)`, since the case `n = -1` need not be considered separately. Please have a look at [our attempt at this proof](https://github.com/Chern-Weil/TheWhiteheadTheorem/blob/a9fce63b250d462d7330638c3f6dbb13d6dc83ff/CWComplex.lean#L396-L403).

Comment (jzxia) [reply Mathlib/Topology/Category/TopCat/Basic.lean:194]: We could perhaps make the definitions less confusing by replacing `Int.toNat <| n + 1` with `(n + 1).toNat` and replacing `Int.toNat n` with `n.toNat`.

Comment (joelriou) [reply Mathlib/Topology/Category/TopCat/Basic.lean:194]: Ah, ok. Sorry for my mistake.

File: Mathlib/Topology/Category/TopCat/Limits/Basic.lean [hunk 15]
```diff
@@ -184,7 +184,7 @@ instance forgetPreservesColimits : PreservesColimits (forget : TopCat.{u} ⥤ Ty
 /-- The terminal object of `Top` is `PUnit`. -/
 def isTerminalPUnit : IsTerminal (TopCat.of PUnit.{u + 1}) :=
   haveI : ∀ X, Unique (X ⟶ TopCat.of PUnit.{u + 1}) := fun X =>
-    ⟨⟨⟨fun _ => PUnit.unit, by continuity⟩⟩, fun f => by ext; aesop⟩
+    ⟨⟨⟨fun _ => PUnit.unit, continuous_const⟩⟩, fun f => by ext; aesop⟩
```
Comment (joelriou) [inline Mathlib/Topology/Category/TopCat/Limits/Basic.lean:187]: I am not sure there is a need for this change. If `by continuity` works in reasonable time, there is no need to change it by an explicit term.

File: Mathlib/Topology/CWComplex.lean [hunk 16]
```diff
@@ -0,0 +1,123 @@
...
+  continuous_toFun := ⟨fun t ⟨s, ⟨r, hro, hrs⟩, hst⟩ ↦ by
+    rw [isOpen_induced_iff, ← hst, ← hrs]
+    tauto⟩
+
+variable {S D : TopCat.{u}} (f : S ⟶ D)
+
+/-- Given the inclusion map `f : S ⟶ D` for one generalized cell, we construct the inclusion map
+from the disjoint union of `S` (boundary of generalized cells) to the disjoint union of `D`
+(generalized cells), where both of the disjoint unions are indexed by `cells`. -/
+def generalizedSigmaSphereInclusion (cells : Type) :
```
Comment (joelriou) [inline Mathlib/Topology/CWComplex.lean:48]: I believe that all occurrences of `Type` should be replaced by `Type u`. Otherwise, for example, a discrete topological space in `Type u` may not be a CW-complex.

Comment (joelriou) [reply Mathlib/Topology/CWComplex.lean:48]: Also, as you are using the colimit API for pushouts below, it would be more consistent to use the general category theory coproducts API instead of the type theoretic disjoint union. This would also remove the need for the verification of the continuity of some maps.

File: Mathlib/Topology/Category/TopCat/Limits/Basic.lean (hunk 15 above)
Comment (jzxia) [reply Mathlib/Topology/Category/TopCat/Limits/Basic.lean:187]: This change is required because, after moving `sphere` and `disk` into `TopCat/Basic.lean`, the tactic `continuity` (presumably) gets overwhelmed by newly imported definitions, resulting in the timeout error `tactic 'aesop' failed, failed to prove the goal after exhaustive search`. I didn't look into the exact cause but was able to fix this by using the explicit term `continuous_const`.

For details, please look at [this conversation](https://github.com/leanprover-community/mathlib4/pull/12502#discussion_r1745581711).

This change is unrelated to CW-complexes but is required for this PR to build successfully. Should I open another PR for this change?

File: Mathlib/Topology/CWComplex.lean (hunk 16 above)
Comment (jzxia) [reply Mathlib/Topology/CWComplex.lean]: Thank you for these comments! Yes, using the categorical coproduct API has simplified the code, and is more consistent.

File: Mathlib/Topology/CWComplex.lean [hunk 17]
```diff
@@ -0,0 +1,97 @@
...
+
+namespace RelativeCWComplex
+
+noncomputable section Topology
+
+/-- The inclusion map from `X` to `X'`, given that `X'` is obtained from `X` by attaching
+`(n + 1)`-disks -/
+def AttachCells.inclusion {X X' : TopCat.{u}} {n : ℤ} (att : AttachCells n X X') : X ⟶ X' :=
+  Limits.pushout.inl (Limits.Sigma.desc att.attachMaps) (Limits.Sigma.map fun _ ↦ sphereInclusion n)
+    ≫ att.iso_pushout.inv
```
Comment (joelriou) [inline Mathlib/Topology/CWComplex.lean:82]:
```suggestion
  Limits.pushout.inl (Limits.Sigma.desc att.attachMaps) (Limits.Sigma.map fun _ ↦ sphereInclusion n) ≫
    att.iso_pushout.inv
```

**Comment by joelriou** [comment]
Thanks!

bors merge
